US05792886
Hydrocarboxylation of 6-Methoxy-2-Vinylnaphthalene
Charged to a 1000-gallon reactor are the filtered THF-DEK-MVN solution produced in the above procedure containing 550 kg of MVN, 825 kg of DEK, and 825 kg of THF, followed by 0.3 kg of PdCl2, 0.64 kg of CuCl2, 3.1 kg of NMDP, and 200 kg of 10 wt % HCl. The reactor is then pressured to 100 psig with carbon monoxide and the reactor temperature is adjusted to 70° C. The reactor is then pressured to 360 psig with carbon monoxide and held at this pressure until the uptake of carbon monoxide is completed. The reactor is then cooled and the pressure is vented. The reaction typically takes 4-8 hours to go to completion with >95% MVN conversion and a yield of (±)-2-(6-methoxy-2-naphthyl)propionic acid of approximately 90%.

reactant | HCl | Cl | ClH
reactant | carbon monoxide | [C]=O | CO
reactant | (±)-2-(6-methoxy-2-naphthyl)propionic acid | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O3
catalyst | PdCl2 | 0.3 kg | Cl[Pd]Cl
solvent | THF | 825 kg | C1CCOC1 | C4H8O
product | 6-Methoxy-2-Vinylnaphthalene | COC=1C=C2C=CC(=CC2=CC1)C=C | C13H12O
